US07674795B2
In a 100 ml round-bottomed flask under an argon atmosphere, dissolve 1.58 g of an equimolar mixture of 4-(5-cyano-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 10 ml of ethanol and 10 ml of water and 10 ml of acetic acid, at room temperature, add 1.2 g of zinc in three stages, and stir for approximately one hour to two hours between each addition. Add Celite and filter. The filtrate is concentrated under pressure. The crude product is purified by flash chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and methanol (9/1 by volume) and then a mixture of dichloromethane and ammonia as a 7N solution in methanol (95/5 by volume). In this way, we obtain 1.4 g of 4-(5-cyano-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine, in the form of a white powder, which is used as it is in the following stage.

reactant | 4-(5-cyano-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | C(#N)C1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1 | C21H12N4O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | zinc | 1.2 g | [Zn] | Zn
product | 4-(5-cyano-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine | 1.4 g | C(#N)C1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1 | C21H14N4
